US06821980B1
(7j) 5-{3′-Amino-2-ethoxy-6-[2-(tetrahydro-pyran-4-yl)-ethoxy]-biphenyl-4-ylmethyl}-pyrimidine-2,4-diamine (Method α)
5-(3′-Amino-2-benzyloxy-6-ethoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine (17.51 g; 39.7 mmol) is hydrogenated in ethanol (66 ml) and acetic acid conc. (198 ml) over Pd/C 10% (8.1 g) for 20 hours. The catalyst is filtered off and the mother liquor is concentrated. The residue is taken up in water and the pH is adjusted to 10 by addition of NH4OH conc. The suspension is filtered with suction and the crystals are washed thoroughly with water and dried under a high vacuum.

reactant | 5-(3′-Amino-2-benzyloxy-6-ethoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | 39.7 mmol, 17.51 g | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OCC1=CC=CC=C1 | C26H27N5O2
reactant | acetic acid | 198 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 66 ml | C(C)O | C2H6O
catalyst | Pd/C | 8.1 g | [Pd] | Pd
product | 5-{3′-Amino-2-ethoxy-6-[2-(tetrahydro-pyran-4-yl)-ethoxy]-biphenyl-4-ylmethyl}-pyrimidine-2,4-diamine | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCCC1CCOCC1)CC=1C(=NC(=NC1)N)N)OCC | C26H33N5O3
